US09193728B2
Preparation of 3-(pyridin-4-yl)quinoline
3-Bromo quinoline (0.2 g, 0.00096 mol) was dissolved in DMF:water (3:1, 4 mL). To this was added potassium phosphate (0.611 g, 0.00288 mol) and pyridyl-4-boronic acid (0.141 g, 0.00115 mol) at RT. The reaction mixture was degassed for 5 min, and to this was added Pd(PPh3)4 (0.055 g, 0.000048 mol). The reaction mixture was heated by microwave at 80° C. for 1.5 h. After completion of reaction (monitored by TLC), the mixture was diluted with water (20 mL) and extracted with EtOAc (3×50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum, and the residue purified by column chromatography (45% ethylacetate:hexane in silica 100-200 mesh, diameter of column—5.0 cm, height of silica—approx. 5 inch) to provide the desired compound (0.13 g, 63% yield).

reactant | 3-Bromo quinoline | 0.00096 mol, 0.2 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | potassium phosphate | 0.00288 mol, 0.611 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | pyridyl-4-boronic acid | 0.00115 mol, 0.141 g | B(C1=CC=NC=C1)(O)O | C5H6BNO2
solvent | DMF water | 4 mL | CN(C)C=O.O
solvent | water | 20 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.000048 mol, 0.055 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(pyridin-4-yl)quinoline | 0.13 g, 63% yield | N1=CC=C(C=C1)C=1C=NC2=CC=CC=C2C1 | C14H10N2
